US04709081
10.35 g. (0.11 mole) of phenol, 6.15 g. (0.11 mole) of potassium hydroxide and 35 cm3. of xylene are weighed together. The water is azeotropically distilled with stirring and boiling. 5 cm3. of pyridine and 0.5 g. of copper(I) chloride are added then 22.91 g. (0.1 mole) of 3-bromobenzyl acetate are dropped into the reaction mixture during 15 minutes with stirring and boiling. The reaction mixture is boiled with stirring for an additional three hours. After cooling the reaction mixture is filtered off and the filtrate washed with a mixture of 25 cm3. of 15% sodium chloride solution and 2 cm3. of 40% sodium hydroxide solution. The organic phase is evaporated in vacuo. The residue is distilled in vacuo and so 18.65 g. of 3-phenoxybenzyl acetate are obtained. Boiling point 142°-145° C./53.2 Pa, nD20 : 1.5621, yield 77%.

reactant | phenol | 0.11 mole | C1(=CC=CC=C1)O | C6H6O
reactant | potassium hydroxide | 0.11 mole | [OH-].[K+]
reactant | 3-bromobenzyl acetate | 0.1 mole | C(C)(=O)OCC1=CC(=CC=C1)Br | C9H9BrO2
solvent | xylene | C=1(C(=CC=CC1)C)C | C8H10
product | 3-phenoxybenzyl acetate | yield 77% | C(C)(=O)OCC1=CC(=CC=C1)OC1=CC=CC=C1 | C15H14O3
